US07432257B2
To a mixture of 3-(2-bromophenoxy)-4-nitrobenzonitrile, 1 (5 g; 15.67 mmol) in methanol (100 mL) was added tin(II) chloride dihydrate (17.68 g; 78.36 mmol). The mixture was stirred at rt overnight, and the solvent was removed via evaporation. Ethyl acetate (100 mL) and 1N NaOH (100 mL) were added, and the solvents were removed via evaporation. Ethyl acetate (200 mL) was added, and white solid formed. The solid was removed via filtration, washed with ethyl acetate, and the combined filtrates were evaporated. The residue was purified via column chromatography (eluent gradient: 10% to 30% ethyl acetate in heptane) to yield 3.0 g (66%) of 4-amino-3-(2-bromophenoxy)-benzonitrile, 2a. MS m/z (MH+) 288.7/289.7.

reactant | 3-(2-bromophenoxy)-4-nitrobenzonitrile | BrC1=C(OC=2C=C(C#N)C=CC2[N+](=O)[O-])C=CC=C1 | C13H7BrN2O3
reactant | tin(II) chloride dihydrate | 78.36 mmol, 17.68 g | O.O.[Sn](Cl)Cl
solvent | methanol | 100 mL | CO | CH4O
product | 4-amino-3-(2-bromophenoxy)-benzonitrile | 3.0 g, 66% | NC1=C(C=C(C#N)C=C1)OC1=C(C=CC=C1)Br | C13H9BrN2O
